US04764521
5-[4-(2-Propyl-3-chloro-4-acetylphenoxy)butyl]-tetrazole
A solution of 0.5 g. of 4-(2-propyl-3- chloro-4-acetylphenoxy)butane nitrile and 1.3 g. of tetramethylguanidinium azide in 3 ml. of dimethylformamide was heated overnight at 125° C. The reaction was cooled, ethyl acetate and water were added, and the layers were separated. Water was added to the ethyl acetate layer, the water layer was acidified, and the layers were separated. The ethyl acetate was dried and evaporated to dryness. The residue was purified by chromatography to give the desired title product. NMR.

reactant | 4-(2-propyl-3- chloro-4-acetylphenoxy)butane nitrile | C(CC)C1=C(OCCCC#N)C=CC(=C1Cl)C(C)=O | C15H18ClNO2
reactant | tetramethylguanidinium azide | [N-]=[N+]=[N-].CN(C(N(C)C)=[NH2+])C
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 5-[4-(2-Propyl-3-chloro-4-acetylphenoxy)butyl]-tetrazole | C(CC)C1=C(OCCCCC2=NN=NN2)C=CC(=C1Cl)C(C)=O | C16H21ClN4O2
